US05334595
1,1'-Carbonyldiimidiazole (CDI) (3.9 g, 0.024 mol) was added to a suspension of (6.0 g, 0.016 mol) 1-cyclopropyl-7-(2, 6-dimethyl-4-pyridinyl )-6, 8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, described in U.S. Pat. No. 5,075,319, and incorporated herein by reference, in DMF (40 mL) and the mixture was stirred at 100° C. for 2 hr under a N2 atmosphere. The resulting solution was cooled to 25° C., diluted with and 60 mL ethanol and heated at reflux 17 h. Removal of the solvents in vacuo gave a residue that was stirred in 20 mL ethanol; after cooling in ice a solid separated and was collected (5.5 g, 86%); a 4.5 g portion of this material was recrystallized from ethanol to give 4.25 of ethyl 1-cyclopropyl-7-(2,6-dimethyl-4-pyridinyl)-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate, mp 193°-195° C.

reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-cyclopropyl-7-(2, 6-dimethyl-4-pyridinyl )-6, 8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.016 mol, 6.0 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)C1=CC(=NC(=C1)C)C)F)=O)C(=O)O | C20H16F2N2O3
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | ethyl 1-cyclopropyl-7-(2,6-dimethyl-4-pyridinyl)-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)C1=CC(=NC(=C1)C)C)F)=O)C(=O)OCC | C22H20F2N2O3
